US05314880
Utilising the procedure described in Example 1(a) employing N-cyclohexyl-N-methyl 4-methylbenzenesulphonamide (20.0 g, 0.075 mol) in lieu of ethyl 4-methylbenzoate and two equivalents of NBS (27.0 g, 0.15 mol) yielded a crude product of N-cyclohexyl-N-methyl 4-bromomethylbenzenesulphonamide (23.4 g, 90%) as an orange oil.

reactant | N-cyclohexyl-N-methyl 4-methylbenzenesulphonamide | 0.075 mol, 20.0 g | C1(CCCCC1)N(S(=O)(=O)C1=CC=C(C=C1)C)C | C14H21NO2S
reactant | ethyl 4-methylbenzoate | CC1=CC=C(C(=O)OCC)C=C1 | C10H12O2
reactant | NBS | 0.15 mol, 27.0 g, two equivalents | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | N-cyclohexyl-N-methyl 4-bromomethylbenzenesulphonamide | 23.4 g, 90% | C1(CCCCC1)N(S(=O)(=O)C1=CC=C(C=C1)CBr)C | C14H20BrNO2S
